US06620811B2
2-(3-Methoxy-azetidin-1-yl)-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide
From 2-bromo-N-(4-methoxy-7-mopholin-4-yl-benzothiazol-2-yl)-isonicotinamide with cesium carbonate and 3-methoxy-azetidine hydrochloride in NMP. ES-MS m/e (%): 456 (M+H+, 100).

reactant | 2-bromo-N-(4-methoxy-7-mopholin-4-yl-benzothiazol-2-yl)-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17BrN4O3S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-methoxy-azetidine hydrochloride | Cl.COC1CNC1
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 2-(3-Methoxy-azetidin-1-yl)-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | COC1CN(C1)C=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C22H25N5O4S
